### PR TITLE
[Merged by Bors] - feat(Algebra/CharP/ExpChar): add more results for `ExpChar` parallel to `CharP`

### PR DESCRIPTION
**Pull request by acmepjz**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by acmepjz** [comment]
```
Error: ./././Mathlib/Algebra/CharP/ExpChar.lean:72:1: error: ringExpChar.eq_one.{u_1} simp can prove this:
  by simp only [@ringChar.eq_zero, @ge_iff_le, @zero_le, @max_eq_right]
```

Oops. I assume that `abbrev ringExpChar` allows `simp` to expand the definition of it? So I should remove the `simp` tag from `ringExpChar.eq_one`? Or change `abbrev` to `def`?

File: Mathlib/Algebra/CharP/Basic.lean [hunk 1]
```diff
@@ -540,6 +540,12 @@ theorem char_is_prime_or_zero (p : ℕ) [hc : CharP R p] : Nat.Prime p ∨ p = 0
   | m + 2, hc => Or.inl (@char_is_prime_of_two_le R _ _ (m + 2) hc (Nat.le_add_left 2 m))
 #align char_p.char_is_prime_or_zero CharP.char_is_prime_or_zero
 
+theorem exists' (R : Type*) [NonAssocRing R] [NoZeroDivisors R] [Nontrivial R] :
```
Comment (alreadydone) [inline Mathlib/Algebra/CharP/Basic.lean:543]: `ExpChar.exists` all uses domain, so let's use it here too:
```suggestion
theorem exists' (R : Type*) [NonAssocRing R] [IsDomain R] :
```

File: Mathlib/Algebra/CharP/ExpChar.lean [hunk 2]
```diff
@@ -123,10 +150,25 @@ end Nontrivial
 end Semiring
 
 theorem ExpChar.exists [Ring R] [IsDomain R] : ∃ q, ExpChar R q := by
-  obtain ⟨p, h⟩ := CharP.exists R
-  by_cases hp : p = 0
-  · exact ⟨1, by rw [hp] at h; haveI := CharP.charP_to_charZero R; exact .zero⟩
-  exact ⟨p, haveI := NeZero.mk hp; .prime (CharP.char_is_prime_of_pos R p).out⟩
+  obtain ⟨p, _⟩ := CharP.exists R
+  rcases CharP.char_is_prime_or_zero R p with hp | rfl
+  exacts [⟨p, .prime hp⟩, ⟨1, haveI := CharP.charP_to_charZero R; .zero⟩]
```
Comment (alreadydone) [inline Mathlib/Algebra/CharP/ExpChar.lean:155]: This is the purpose of introducing `exists'` :)
```suggestion
  obtain _ | ⟨p, ⟨hp⟩, _⟩ := CharP.exists' R
  exacts [⟨1, .zero⟩, ⟨p, .prime hp⟩]
```

**Review by alreadydone — APPROVED** [review]

**Comment by alreadydone** [comment]
> Oops. I assume that `abbrev ringExpChar` allows `simp` to expand the definition of it? So I should remove the `simp` tag from `ringExpChar.eq_one`? Or change `abbrev` to `def`?

I'd be fine with changing it to a def. I noticed sometimes you can't `rw` or `simp_rw` the definition of an abbrev, which can be annoying.

File: Mathlib/Algebra/CharP/Basic.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/Algebra/CharP/Basic.lean]: No, it doesn't work as `IsDomain R` requires `R` to be an associated ring.

**Review by alreadydone — COMMENTED** [review]
maintainer merge

**Review by alreadydone — APPROVED** [review]

File: Mathlib/Algebra/CharP/ExpChar.lean [hunk 3]
```diff
@@ -46,6 +46,32 @@ class inductive ExpChar (R : Type u) [Semiring R] : ℕ → Prop
...
+/-- The exponential characteristic is unique. -/
+theorem ExpChar.eq {p q : ℕ} (hp : ExpChar R p) (hq : ExpChar R q) : p = q := by
+  cases' hp with hp _ hp' hp
+  · cases' hq with hq _ hq' hq
+    exacts [rfl, False.elim (Nat.not_prime_zero (CharP.eq R hq (CharP.ofCharZero R) ▸ hq'))]
+  · cases' hq with hq _ hq' hq
+    exacts [False.elim (Nat.not_prime_zero (CharP.eq R hp (CharP.ofCharZero R) ▸ hp')),
+      CharP.eq R hp hq]
+
+variable {R} in
```
Comment (riccardobrasca) [inline Mathlib/Algebra/CharP/ExpChar.lean:58]: On the other hand `R` should be explicit here, since `hq` is provided as an instance.

File: Mathlib/Algebra/CharP/ExpChar.lean [hunk 4]
```diff
@@ -46,6 +46,32 @@ class inductive ExpChar (R : Type u) [Semiring R] : ℕ → Prop
 #align exp_char ExpChar
 #align exp_char.prime ExpChar.prime
 
+/-- The exponential characteristic is unique. -/
+theorem ExpChar.eq {p q : ℕ} (hp : ExpChar R p) (hq : ExpChar R q) : p = q := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/CharP/ExpChar.lean:50]: Is `R` explicit here? I think it should be.

File: Mathlib/Algebra/CharP/ExpChar.lean [hunk 5]
```diff
@@ -46,6 +46,32 @@ class inductive ExpChar (R : Type u) [Semiring R] : ℕ → Prop
...
+
+theorem ringExpChar.eq (q : ℕ) [h : ExpChar R q] : ringExpChar R = q := by
+  cases' h with _ _ h _
+  · haveI := CharP.ofCharZero R
+    rw [ringExpChar, ringChar.eq R 0]; rfl
+  rw [ringExpChar, ringChar.eq R q]
+  exact Nat.max_eq_left h.one_lt.le
+
+@[simp]
+theorem ringExpChar.eq_one {R : Type*} [NonAssocSemiring R] [CharZero R] : ringExpChar R = 1 := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/CharP/ExpChar.lean:72]:
```suggestion
theorem ringExpChar.eq_one (R : Type*) [NonAssocSemiring R] [CharZero R] : ringExpChar R = 1 := by
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/CharP/ExpChar.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/Algebra/CharP/ExpChar.lean:50]: You mean "should not", right?

Comment (riccardobrasca) [reply Mathlib/Algebra/CharP/ExpChar.lean:50]: Yes, sorry.
